US04943567
To 20 g of 1-amino-2-propanol, 69.7 g of di-t-butyl-dicarbonate is added in portions under cooling conditions and this is followed by 1 hour of agitation at room temperature, whereafter 1 l of ethyl acetate is added, and the mixture is washed with water. The organic layer is dried with anhydrous Glauber's salt, after which it is concentrated under reduced pressure. The residue is subjected to silica gel column chromatography and eluted with chloroform-methanol to give 46 g of 1-t-butoxycarbonylamino-2-propanol.

reactant | 1-amino-2-propanol | 20 g | NCC(C)O | C3H9NO
reactant | di-t-butyl-dicarbonate | 69.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
product | 1-t-butoxycarbonylamino-2-propanol | 46 g | C(C)(C)(C)OC(=O)NCC(C)O | C8H17NO3
